US05491144
4,5-Bis(anilino)phthalimide
A suspension of 230 mg (0.7 mmol) of 4,5-bis(anilino)phthalic acid dimethylester in 23 ml of ethylene glycol is heated at 120°; ammonia gas is passed through the suspension, with stirring, for 24 hours. The reaction mixture is cooled and extracted with ethyl acetate. The ethyl acetate phases are washed in succession three times with water and once with saturated sodium chloride solution, dried with sodium sulfate and concentrated by evaporation. The evaporation residue is chromatographed onsilica gel with dichloromethane/methanol 40:1 and the product fractions arecombined and concentrated by evaporation, yielding the title compound in the form of yellow crystals, m.p. 215°-217°, FAB-MS: 330 [M+ +H].

reactant | 4,5-bis(anilino)phthalic acid dimethylester | 0.7 mmol, 230 mg | COC(C=1C(C(=O)OC)=CC(=C(C1)NC1=CC=CC=C1)NC1=CC=CC=C1)=O | C22H20N2O4
reactant | ammonia | N | H3N
solvent | ethylene glycol | 23 ml | C(CO)O | C2H6O2
product | 4,5-Bis(anilino)phthalimide | N(C1=CC=CC=C1)C=1C=C2C(C(=O)NC2=O)=CC1NC1=CC=CC=C1 | C20H15N3O2
